US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (1.77 mmol) and 5-methanesulfonyl-3-methyl-indol-1-ylamine (452 mg, 1.95 mmol) in DMF (15 mL) is stirred at rt for 1 h. The mixture is treated with DMTMM (538 mg, 1.95 mmol) and stirred at 60° C. for 1.5 h. The mixture is diluted with EtOAc (50 mL), and washed with saturated aqueous Na2CO3 (50 mL). The organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0%-100% EtOAc in heptane, and then by triturating in Et2O to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-3-methyl-indol-1-yl)-amide (106 mg, 14%). MS: 439 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.15 (s, 1H), 8.37 (d, 1H), 8.24 (m, 2H), 7.82 (m, 1H), 7.59 (d, 1H), 7.54 (m, 1H), 7.34 (s, 1H), 7.29 (m, 1H), 3.13 (s, 3H), 2.83 (s, 3H), 2.42 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.77 mmol | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 5-methanesulfonyl-3-methyl-indol-1-ylamine | 1.95 mmol, 452 mg | CS(=O)(=O)C=1C=C2C(=CN(C2=CC1)N)C | C10H12N2O2S
reactant | DMTMM | 1.95 mmol, 538 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-3-methyl-indol-1-yl)-amide | 106 mg, 14% | CS(=O)(=O)C=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)C | C22H19FN4O3S
